US06787551B2
5-(4-[2-(N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione
A solution of 2,4-thiazolidinedione (120 mg) and 4-[2-(N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino)ethoxy]benzaldehyde (280 mg) in a catalytic amount of piperidinium acetate containing toluene (60 mL), was stirred under reflux on a Dean-stark device for 4 hours. The resultant mixture was cooled and filtered. The filtered solid was dried to give the title compound (250 mg).

reactant | 2,4-thiazolidinedione | 120 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 4-[2-(N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino)ethoxy]benzaldehyde | 280 mg | CN(C1=NC(=CC=N1)C1=CC=C(N)C=C1)CCOC1=CC=C(C=O)C=C1 | C20H20N4O2
reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(N-methyl-N-(6-(4-anilinyl)pyrimidinyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione | 250 mg | CN(C1=NC(=CC=N1)C1=CC=C(N)C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C23H21N5O3S
